US09284311B2
1.1.2. Synthesis of 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-thiomorpholine-1,1-dioxide (Intermediate 4)
2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (1 eq) and DIPEA (2 eq) were dissolved in DCM/MeOH (5:1 v:v) under N2 and thiomorpholine 1,1-dioxide (2 eq) was added portion wise. The resulting solution was stirred at room temperature for 16 h. After this time, the reaction was complete. The solvent was evaporated. The compound was extracted with EtOAc and water, washed with brine and dried over anhydrous MgSO4. Organic layers were filtered and evaporated. The final compound was isolated without further purification.

reactant | 2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1 eq | BrCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
reactant | DIPEA | 2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | thiomorpholine 1,1-dioxide | 2 eq | N1CCS(CC1)(=O)=O | C4H9NO2S
solvent | DCM MeOH | C(Cl)Cl.CO
product | 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-thiomorpholine-1,1-dioxide | CC1(OB(OC1(C)C)C1=CC=C(CN2CCS(CC2)(=O)=O)C=C1)C | C17H26BNO4S
